US07354933B2
Preparation of methyl 2-((7-methoxyquinolin-4-ylmethyl)amino)propanoate
A mixture of 1.23 g of methyl α-aminoisobutyrate hydrochloride and 1.12 ml of triethylamine in 30 ml of dichloromethane is stirred at 0° C. for 20 minutes. Next, 1 g of magnesium sulfate and 1.5 g of 7-methoxyquinoline-4-carbaldehyde are added. Stirring is continued for 15 hours at room temperature and the mixture is then concentrated under reduced pressure. The residue is taken up in 35 ml of methanol, the solution obtained is cooled to 0° C. and 0.31 g of sodium borohydride is then added portionwise. The reaction medium is stirred at a temperature in the region of 20° C. for 15 hours. The reaction medium is concentrated under reduced pressure. The residue obtained is taken up in 100 ml of EtOAc. The precipitate formed is filtered off and the filtrate is concentrated under reduced pressure and then purified by flash chromatography on a column (SiO2, EtOAc as eluent, Ar), and 0.95 g of the expected product is obtained.

reactant | methyl α-aminoisobutyrate hydrochloride | 1.23 g | Cl.NC(C(=O)OC)(C)C
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 7-methoxyquinoline-4-carbaldehyde | 1.5 g | COC1=CC=C2C(=CC=NC2=C1)C=O | C11H9NO2
reactant | sodium borohydride | 0.31 g | [BH4-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | triethylamine | 1.12 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-((7-methoxyquinolin-4-ylmethyl)amino)propanoate | 0.95 g | COC1=CC=C2C(=CC=NC2=C1)CNC(C(=O)OC)C | C15H18N2O3
